US07098212B2
[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyl)-methyl-amino]-acetic acid
To a solution of [(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyl)-methyl-amino]-acetic acid methyl ester (0.051 g, 0.10 mmol) in 1:1 tetrahydrofuran:water (1 ml) and lithium hydroxide hydrate (0.016 g, 0.38 mmol) was added. After 1.5 hours the reaction was concentrated and the title compound isolated by chromatography on silica gel (0.045 g, LRMS: 492.4).

reactant | [(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyl)-methyl-amino]-acetic acid methyl ester | 0.10 mmol, 0.051 g | COC(CN(C)CC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C26H33ClFN3O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide hydrate | 0.38 mmol, 0.016 g | O.[OH-].[Li+]
solvent | water | 1 ml | O | H2O
product | [(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyl)-methyl-amino]-acetic acid | ClC=1C=CC(=C(CN(C)CC(=O)O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C25H31ClFN3O4
